US06090836
1. 3-ethyl-6-(3-bromopropyl)oxy-7-propylbenz[4,5]isoxazole
A solution of 3-ethyl-6-hydroxy-7-propylbenz[4,5]isoxazole (2.00 grams; 9.74 mmol) in dry DMF was treated with dibromopropane (7.17 mL; 38.97 mmol) and cesium carbonate (3.49 grams; 10.71 mmol). The solution was stirred at room temperature for 10 hours, then partioned between isopropyl acetate and pH 4.0 buffer. The organic layer was washed twice with water, dried over magnesium sulfate, filtered and concentrated in vacuo. Silica gel chromatography afforded the title compound (1.74 g).

reactant | 3-ethyl-6-hydroxy-7-propylbenz[4,5]isoxazole | 9.74 mmol, 2.00 grams | C(C)C1=NOC2=C1C=CC(=C2CCC)O | C12H15NO2
reactant | dibromopropane | 38.97 mmol, 7.17 mL | BrC(C)(C)Br | C3H6Br2
reactant | cesium carbonate | 10.71 mmol, 3.49 grams | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | isopropyl acetate | C(C)(=O)OC(C)C | C5H10O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-ethyl-6-(3-bromopropyl)oxy-7-propylbenz[4,5]isoxazole | 1.74 g | C(C)C1=NOC2=C1C=CC(=C2CCC)OCCCBr | C15H20BrNO2
